US07351825B2
2-(4-fluorophenyl)-2-methyl-cyclopropane-1,1-dicarboxylic acid diethyl ester (step 1-6)
Under ice-cooling and under nitrogen atmosphere, a solution of 21% sodium ethoxide in ethanol (1.6 mL, 4.4 mmol) was added to a solution of the crude product (2.9 mmol) of [3,3-bis-ethoxycarbonyl-2-(4-fluorophenyl)-2-methylpropyl]dimethylsulfonium p-toluenesulfonate in ethanol (10 mL), which was obtained in Preparation Example 1-5, and the mixture was stirred for 1 hour. The obtained solution was concentrated under reduced pressure, and the residue was neutralized by the addition of a 2N aqueous hydrochloric acid solution, and the aqueous layer was extracted with ethyl acetate (10 mL). The organic layer was dried over magnesium sulfate and filtrated, and the solvent was evaporated. Then, the obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=20:1 to 5:1) to give the title compound (0.64 g, yield 75%) as a pale-yellow oil.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | [3,3-bis-ethoxycarbonyl-2-(4-fluorophenyl)-2-methylpropyl]dimethylsulfonium p-toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.C(C)OC(=O)C(C(C[S+](C)C)(C)C1=CC=C(C=C1)F)C(=O)OCC
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | ethanol | 4.4 mmol, 1.6 mL | C(C)O | C2H6O
product | 2-(4-fluorophenyl)-2-methyl-cyclopropane-1,1-dicarboxylic acid diethyl ester | 0.64 g, yield 75% | C(C)OC(=O)C1(C(C1)(C)C1=CC=C(C=C1)F)C(=O)OCC | C16H19FO4
